US05591775
EXAMPLE 1: N-[2-(7-METHOXY-3-BENZOYLNAPHTH-1-YL)ETHYL]-ACETAMIDE
To a solution of 11 g (45.2 mmol) of N-[2-(7-methoxynaphth-1-yl)ethyl]acetamide and 7.7 g (57.7 mmol) of AlCl3 in 60 cm3 of nitrobenzene, add dropwise 57.9 mmol of benzoyl chloride, at 12° C. and under nitrogen. Allow to react for 2 hours at 12° C. and pour the reaction mixture onto ice. Extract with dichloromethane, dry over magnesium sulfate, concentrate and then chromatograph the crude material on silica (eluent CH2Cl2 /CH3OH: 99/1).

reactant | N-[2-(7-methoxynaphth-1-yl)ethyl]acetamide | 45.2 mmol, 11 g | COC1=CC=C2C=CC=C(C2=C1)CCNC(C)=O | C15H17NO2
reactant | AlCl3 | 57.7 mmol, 7.7 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | benzoyl chloride | 57.9 mmol | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | nitrobenzene | 60 cm3 | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | N-[2-(7-METHOXY-3-BENZOYLNAPHTH-1-YL)ETHYL]-ACETAMIDE | COC1=CC=C2C=C(C=C(C2=C1)CCNC(C)=O)C(C1=CC=CC=C1)=O | C22H21NO3
